US04234594
2-[1-(3-chlorophenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline HCl
1-Acetyl-2-[1-(3-chlorophenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline (19.7 g.) was treated with HCl in methanol as described in Example II to give 6.5 g. product as the HCl salt, mp 208°-209°.

reactant | 1-Acetyl-2-[1-(3-chlorophenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | 19.7 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=CC(=CC=C1)Cl)C | C15H16ClN5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-[1-(3-chlorophenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline HCl | Cl.ClC=1C=C(C=CC1)N1N=C(C=C1NC=1NCCN1)C | InChI=1S/C13H14ClN5.ClH/c1-9-7-12(17-13-15-5-6-16-13)19(18-9)11-4-2-3-10(14)8-11;/h2-4,7-8H,5-6H2,1H3,(H2,15,16,17);1H
